US06331545B1
A solution of N-(3-cyanophenyl)-3-{[4-(4-fluorobenzyl)-1-piperidinyl]methyl}-1-piperazinecarboxamide dihydrochloride (20.0 mg, 0.05 mmol) and benzaldhyde (8.5 mg, 0.08 mmol, Aldrich) in dry dichloroethane (5 mL) was stirred for 20 min when sodium triacetoxyborohydride (32 mg, 0.15 mmol, Aldrich) was added. The reaction was stirred for 16 h and then quenched with water (5 mL). The organic layer was separated, dried over MgSO4, and conc. in vacuo to a white solid. The solid was purified by flash chromatography (SiO2, EtOAc and then EtOAc:TEA, 9:1) to yield 5.0 mg of 4-benzyl-N-(3-cyanophenyl)-3-{[4-(4-fluorobenzyl)-1-piperidinyl]methyl}-1-piperazinecarboxamide as a white solid. MS (ESI) 526 (M+H).

reactant | N-(3-cyanophenyl)-3-{[4-(4-fluorobenzyl)-1-piperidinyl]methyl}-1-piperazinecarboxamide dihydrochloride | 0.05 mmol, 20.0 mg | Cl.Cl.C(#N)C=1C=C(C=CC1)NC(=O)N1CC(NCC1)CN1CCC(CC1)CC1=CC=C(C=C1)F
reactant | benzaldhyde | 0.08 mmol, 8.5 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 0.15 mmol, 32 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | 4-benzyl-N-(3-cyanophenyl)-3-{[4-(4-fluorobenzyl)-1-piperidinyl]methyl}-1-piperazinecarboxamide | 5.0 mg | C(C1=CC=CC=C1)N1C(CN(CC1)C(=O)NC1=CC(=CC=C1)C#N)CN1CCC(CC1)CC1=CC=C(C=C1)F | C32H36FN5O
